US08022062B2
N-(tert-Butoxycarbonyl)-4-cyclohexanecarbonyl-benzylamine:
Add 10% Pd/C (100 mg) to a solution of (4-azidomethyl-phenyl)-cyclohexyl-methanone (310 mg, 1,274 mmol) and di-tert-butyl-dicarbonate (278 mg, 1274 mmol) in ethanol (5 mL). Submit the mixture to hydrogenation under atmospheric pressure (balloon) for 1 h. Filter the catalyst through Celite® and concentrate the filtrate in vacuo. Purify the crude mixture by chromatography on silica gel eluting with hexane and hexane/EtOAc (92:8) to provide the desired intermediate as a white solid (197 mg, 49%).

reactant | (4-azidomethyl-phenyl)-cyclohexyl-methanone | 1,274 mmol, 310 mg | N(=[N+]=[N-])CC1=CC=C(C=C1)C(=O)C1CCCCC1 | C14H17N3O
reactant | di-tert-butyl-dicarbonate | 1274 mmol, 278 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethanol | 5 mL | C(C)O | C2H6O
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | N-(tert-Butoxycarbonyl)-4-cyclohexanecarbonyl-benzylamine | 197 mg, 49% | C(C)(C)(C)OC(=O)NCC1=CC=C(C=C1)C(=O)C1CCCCC1 | C19H27NO3
